US07211572B2
By subjecting 9-benzyloxy-7-bromo-2-(3-chlorobenzyl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione (600 mg) produced by the same method as in Example 249, Step 1 to a reaction operation similar to that in Example 161, Step 3, a mixture of methyl 9-benzyloxy-2-(3-chlorobenzyl)-1,8-dioxo-1,3,4,8-tetrahydro-2H-pyrido[1,2-a]pyrazine-7-carboxylate and methyl 2-(3-chlorobenzyl)-1,8-dioxo-9-hydroxy-1,3,4,8-tetrahydro-2H-pyrido[1,2-a]pyrazine-7-carboxylate was obtained (13 mg). This mixture was dissolved in dimethylformamide (17 ml) and treated with benzyl bromide (1.36 g) and potassium carbonate (1.75 g) and purified by silica gel column chromatography (ethyl acetate-chloroform:methanol=10:1) to give methyl 9-benzyloxy-2-(3-chlorobenzyl)-1,8-dioxo-1,3,4,8-tetrahydro-2H-pyrido[1,2-a]pyrazine-7-carboxylate (480 mg).

reactant | 9-benzyloxy-7-bromo-2-(3-chlorobenzyl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione | 600 mg | C(C1=CC=CC=C1)OC=1C(C(=CN2C1C(N(CC2)CC2=CC(=CC=C2)Cl)=O)Br)=O | C22H18BrClN2O3
reactant | methyl 9-benzyloxy-2-(3-chlorobenzyl)-1,8-dioxo-1,3,4,8-tetrahydro-2H-pyrido[1,2-a]pyrazine-7-carboxylate | C(C1=CC=CC=C1)OC=1C(C(=CN2C1C(N(CC2)CC2=CC(=CC=C2)Cl)=O)C(=O)OC)=O | C24H21ClN2O5
product | methyl 2-(3-chlorobenzyl)-1,8-dioxo-9-hydroxy-1,3,4,8-tetrahydro-2H-pyrido[1,2-a]pyrazine-7-carboxylate | ClC=1C=C(CN2C(C=3N(CC2)C=C(C(C3O)=O)C(=O)OC)=O)C=CC1 | C17H15ClN2O5
